US07863283B2
(RS)-S-[4-({[6-Bromo-4-(isopropylamino)quinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide
(RS)-S-[4-({[6-Bromo-4-(isopropylamino)quinazolin-7-yl]oxy}methyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide (37 mg, 0.07 mmol) is dissolved in ethanol (5 ml), treated with sodium ethoxide (16 mg, 0.26 mmol), and is stirred at 60° C. for 6 hours and subsequently stirred at room temperature overnight. The batch is added to dilute aqueous sodium carbonate solution and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated. The desired product is obtained after chromatographic purification (silica gel, dichloro-methane/methanol: 020% methanol) of the residue in 79% yield (25 mg)

reactant | (RS)-S-[4-({[6-Bromo-4-(isopropylamino)quinazolin-7-yl]oxy}methyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide | 0.07 mmol, 37 mg | BrC=1C=C2C(=NC=NC2=CC1OCC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C)NC(C)C | C22H25BrN4O4S
reactant | sodium ethoxide | 0.26 mmol, 16 mg | [O-]CC.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (RS)-S-[4-({[6-Bromo-4-(isopropylamino)quinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide | 79% yield | BrC=1C=C2C(=NC=NC2=CC1OCC1=CC=C(C=C1)S(=O)(=N)C)NC(C)C | C19H21BrN4O2S
